US05494928
A suspension of 1.98 g of 5-fluoro-3-methoxy-4-methylindole-2-carboxylic acid in 16 ml of diphenyl ether was stirred at 260° for 0.5 hour and, after cooling to 0°, diluted with 44 ml of tetrahydrofuran. 0.33 g of sodium hydride dispersion was added and the mixture was stirred for one hour. Subsequently, 1 ml of (R)-methyloxirane was added and the reaction mixture was stirred at room temperature for 90 hours. The mixture was extracted with diethyl ether, water and saturated sodium chloride solution and the organic phase was dried over sodium surfate. The solvent was removed and the residue was chromatographed over 120 g of silica gel with toluene and toluene-ethyl acetate (9:1). 1.69 g (80%) of (R)-1-(5-fluoro-3-methoxy-4-methylindol-1-yl)-propan-2-ol were obtained as a pale brown oil.

reactant | 5-fluoro-3-methoxy-4-methylindole-2-carboxylic acid | 1.98 g | FC=1C(=C2C(=C(NC2=CC1)C(=O)O)OC)C | C11H10FNO3
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | (R)-methyloxirane | 1 ml | C[C@H]1OC1 | C3H6O
solvent | diphenyl ether | 16 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | tetrahydrofuran | 44 ml | O1CCCC1 | C4H8O
product | (R)-1-(5-fluoro-3-methoxy-4-methylindol-1-yl)-propan-2-ol | 1.69 g, 80% | FC=1C(=C2C(=CN(C2=CC1)C[C@@H](C)O)OC)C | C13H16FNO2
